US04886809
0.3 Gram of 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde dimethylacetal, 5 ml of formalin, 1 ml of ethanol and 2 drops of concentrated hydrochloric acid were refluxed by heating. After the reaction was completed, the solvent was removed by evaporation to obtain the residue, then water was added to the residue. The crystals formed were collected by filtration to yield 0.22 g of 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde.

reactant | 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde dimethylacetal | COC(C1=C(C=CC(=C1)N1CCC(CC1)NC(C)=O)[N+](=O)[O-])OC | C16H23N3O5
reactant | formalin | 5 ml | C=O | CH2O
reactant | ethanol | 1 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | O | H2O
product | 2-nitro-5-(4-acetylamino-1-piperidyl)benzaldehyde | 0.22 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCC(CC1)NC(C)=O | C14H17N3O4
